US04055595
A solution of 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid (1.2 g.) in either (20 ml.) is treated at 0° C. with an excess of an ethereal solution of diazomethane. The solution is evaporated, and the residue is recrystallised from light petroleum (b.p. 40°-60° C.) to give methyl 2-[4(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate (1.1 g.), m.p. 61.5°-62.5° C.

reactant | 2-[4-(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionic acid | 1.2 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)O)(C(F)(F)F)C(F)(F)F)C=C1 | C17H11ClF6O3
reactant | diazomethane | [N+](=[N-])=C | CH2N2
product | methyl 2-[4(4-chlorophenyl)benzyloxy]-3,3,3-trifluoro-2-trifluoromethylpropionate | 1.1 g | ClC1=CC=C(C=C1)C1=CC=C(COC(C(=O)OC)(C(F)(F)F)C(F)(F)F)C=C1 | C18H13ClF6O3
